US07067517B2
Methyl-phenyl-carbamic acid 4-[(tetrahydro-furan-2-ylmethyl)-carbamoyl]-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and C-(tetrahydro-furan-2-yl)methylamine. The crude product was used without further purification (86%, oil). HPLC-MS: m/z=(M+1); Rt: min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | C-(tetrahydro-furan-2-yl)methylamine | O1C(CCC1)CN | C5H11NO
product | Methyl-phenyl-carbamic acid 4-[(tetrahydro-furan-2-ylmethyl)-carbamoyl]-phenyl ester | O1C(CCC1)CNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H22N2O4
